US05376649
5.0 g (0.014 moles) of tetraethyl (dichloromethylene)bisphosphonate and 6.7 g (0.045 moles) of NaI are dissolved in 50 ml of anhydrous CH3CN and while stirring 12.2 g (0.112 moles) of trimethylsilyl chloride are added. After the addition stirring is continued at room temperature, protected from moisture, for appr. 4 days and is evaporated under a vacuum. To the mixture obtained as a residue (contains as the major component monoethyl tris(trimethylsilyl) (dichloromethylene)bisphosphonate) 10 ml of water are added and the mixture is made alkaline with a 10% NaOH solution. The mixture is diluted with 50 ml of CH3OH and is left standing at +4° C. for 2 h and is filtered (the precipitate is (dichloromethylene)bisphosphonic acid sodium salt). To the filtrate 25 ml of ethanol are added and it is left standing for 1 day at +4° C. and is filtered. The filtrate is evaporated under a vacuum and the residue is washed with acetone and filtered. The precipitate is dried to constant weight whereby appr. 2.0 g (50% of the theor.) of colourless crystalline (dichloromethylene)bisphosphonic acid monoethyl ester trisodium salt are obtained (31P-NMR (D2O): δ 6 11.86 (P), 9.40 (P') 2JPP =15.4 Hz) at a concentration of >90% and wherefrom the corresponding acid may be liberated with acid treatment.

reactant | tetraethyl (dichloromethylene)bisphosphonate | 0.014 moles, 5.0 g | ClC(P(OCC)(OCC)=O)(P(OCC)(OCC)=O)Cl | C9H20Cl2O6P2
reactant | NaI | 0.045 moles, 6.7 g | [Na+].[I-]
reactant | trimethylsilyl chloride | 0.112 moles, 12.2 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | monoethyl tris(trimethylsilyl) (dichloromethylene)bisphosphonate | ClC(P(O[Si](C)(C)C)(O[Si](C)(C)C)=O)(P(OCC)(O[Si](C)(C)C)=O)Cl | C12H32Cl2O6P2Si3
reactant | NaOH | [OH-].[Na+]
solvent | CH3CN | 50 ml | CC#N | C2H3N
solvent | CH3OH | 50 ml | CO | CH4O
solvent | water | 10 ml | O | H2O
product | (dichloromethylene)bisphosphonic acid monoethyl ester trisodium salt | [Na+].[Na+].[Na+].C(C)OP([O-])(=O)C(P([O-])([O-])=O)(Cl)Cl | InChI=1S/C3H8Cl2O6P2.3Na/c1-2-11-13(9,10)3(4,5)12(6,7)8;;;/h2H2,1H3,(H,9,10)(H2,6,7,8);;;/q;3*+1/p-3
